US04273874
reacting hydrogen peroxide with alcohol in the presence of catalase to form an aldehyde, reacting the aldehyde with the reduced form of nicotineamide adenine dinucleotide (hereinafter referred to as NADH) to form nicotineamide adenine dinucloeotide (hereinafter referred to as NAD) and determining NAD colorimetrically.

reactant | nicotineamide adenine dinucleotide | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
product | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
